US07214802B2
A mixture of 2.00 g (13.9 mmol) of 2-chloro-3-methoxypyridine (Lancaster) in 13.3 mL of aminomethylcyclopropane was heated at 125° C. in a sealed tube for 4 days. The mixture was then cooled to room temperature and partitioned between Et2O and water. The aqueous layer was washed with Et2O, and the combined extracts were washed with brine, dried with MgSO4, filtered, and concentrated. The residue was passed through a plug of silica gel with CH2Cl2 to provide 1.25 g (7.01 mmol; 50%) of 2-cyclopropylmethylamino-3-methoxypyridine. To a mixture of 2-cyclopropyl-methylamino-3-methoxypyridine (430 mg; 2.41 mmol) in 7.5 mL of 2:1 HOAc and water was added 612 mg (2.41 mmol) of I2. The mixture was heated to 100° C. for 4 h, and an additional 320 mg of I2 was added. The mixture was heated for 2 h, then cooled to room temperature and stirred for 12 h. Saturated NaHCO3 (20 mL) and water (20 mL) were added and the suspension was extracted with EtOAc. The extract was then washed with 10% Na2S2O3, water, and brine, dried with MgSO4, filtered, and concentrated. The pure fractions from chromatography (1–4% MeOH in CH2Cl2) were concentrated to provide 145 mg of 2-cyclopropylmethylamino-3-methoxy-5-iodopyridine.

reactant | 2-chloro-3-methoxypyridine | 13.9 mmol, 2.00 g | ClC1=NC=CC=C1OC | C6H6ClNO
reactant | aminomethylcyclopropane | 13.3 mL | NCC1CC1 | C4H9N
product | 2-cyclopropylmethylamino-3-methoxypyridine | 7.01 mmol, 1.25 g, 50% | C1(CC1)CNC1=NC=CC=C1OC | C10H14N2O
